US04455422
2.8 Grams of 6- {-1-hydroxy-3-[4-(2-methoxy- phenyl)-1-piperazinyl]propyl}-3,4-dihydrocarbostyril was dissolved in 100 ml of dioxane and 5 ml of concentrated hydrochloric acid was added thereto, then the mixture was refluxed for 15 minutes. The reaction mixture was concentrated under a reduced pressure to dryness to obtain a residue. To the residue were added 10N-NaOH and further and stirred at a room temperature for 30 minutes to precipitate crystals. The crystals were collected by filtration, washed with ether then recrystallized from ethanol- chloroform-acetone to obtain 6-{3-[4-(2-methoxyphenyl)- 1-piperazinyl]-1-propenyl}-3,4-dihydrocarbostyril in colorless needle-like crylstals. Yield: 2.3 g. Melting point: 174°-175° C.

reactant | 6- {-1-hydroxy-3-[4-(2-methoxy- phenyl)-1-piperazinyl]propyl}-3,4-dihydrocarbostyril | OC(CCN1CCN(CC1)C1=C(C=CC=C1)OC)C=1C=C2CCC(NC2=CC1)=O | C23H29N3O3
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 6-{3-[4-(2-methoxyphenyl)- 1-piperazinyl]-1-propenyl}-3,4-dihydrocarbostyril | COC1=C(C=CC=C1)N1CCN(CC1)CC=CC=1C=C2CCC(NC2=CC1)=O | C23H27N3O2
